US05248810
Benzyl 6,6-difluoro-5-methyl-5-hexenoate
27.85 g Tris(dimethylamino)phosphine was added dropwise to a solution of 17.90 g dibromodifluoromethane in 130 ml diglyme, maintained under a nitrogen atmosphere and ice bath cooling. After stirring for one hour on the ice bath, 8.82 g benzyl 5-oxohexanoate in 70 ml diglyme was added slowly, dropwise. The ice bath was then removed and the reaction mixture stirred for 3 hours at room temperature, allowed to stand overnight, poured into 200 ml ice water and extracted with ether. The ether phase was washed twice with water, dried over sodium sulphate, filtered and concentrated in a rotary evaporator. The residue was distilled under reduced pressure.

reactant | Tris(dimethylamino)phosphine | 27.85 g | CN(C)P(N(C)C)N(C)C | C6H18N3P
reactant | dibromodifluoromethane | 17.90 g | BrC(F)(F)Br | CBr2F2
reactant | benzyl 5-oxohexanoate | 8.82 g | O=C(CCCC(=O)OCC1=CC=CC=C1)C | C13H16O3
solvent | diglyme | 130 ml | COCCOCCOC | C6H14O3
solvent | diglyme | 70 ml | COCCOCCOC | C6H14O3
product | Benzyl 6,6-difluoro-5-methyl-5-hexenoate | FC(=C(CCCC(=O)OCC1=CC=CC=C1)C)F | C14H16F2O2
